US07141575B2
A soluition of 7-chloro-3-(3-nitrobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (306 mg, 1 mmol), 1-(2-(trimethylsilyl)ethoxymethyl)-1H-pyrazol-5-ylboronic acid (2 mmol), Pd(PPh3)4 (100 mg) and saturated NaHCO3 (5 mL) in THF (20 mL) was refluxed for 2 h, diluted with water (20 mL), extracted with EtOAc(2×20 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; CH2Cl2:EtOAc (6:1)] to give 3-(3-nitrobenzyl)-7-(1-(2-(trimethylsilyl)ethoxymethyl)-1H-pyrazol-5-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (156 mg, 34%) as a pale yellow syrup.

reactant | 7-chloro-3-(3-nitrobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 1 mmol, 306 mg | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=CC(=CC=C2)[N+](=O)[O-] | C11H8ClN7O2
reactant | 1-(2-(trimethylsilyl)ethoxymethyl)-1H-pyrazol-5-ylboronic acid | 2 mmol | C[Si](CCOCN1N=CC=C1B(O)O)(C)C | C9H19BN2O3Si
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-nitrobenzyl)-7-(1-(2-(trimethylsilyl)ethoxymethyl)-1H-pyrazol-5-yl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 156 mg, 34% | [N+](=O)([O-])C=1C=C(CN2N=NC3=C2N=C(N=C3C3=CC=NN3COCC[Si](C)(C)C)N)C=CC1 | C20H25N9O3Si
